US05292760
A stirred solution of 2.19 g of 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine and 9.88 g of trimethyl orthobenzoate was treated rapidly with 2.4 ml of glacial acetic acid, and heated under reflux for 8 hours. The solution was concentrated at 75° C. on a rotary evaporator (vacuum pump) to a syrup. The syrup was then partioned between 10% hydrochloric acid solution (50 ml) and ether. The aqueous phase was extracted again with ether, basified with 10% sodium hydroxide solution (60 ml) and extracted with dichloromethane (2×100 ml). The combined organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated to an oil. The oil was purified by preparative HPLC (Water's Associates Prep LC/System 500A, silica gel, sample applied in dichloromethane, 2% triethylamine in methanol as the eluent). Concentration of the appropriate fractions yielded 2.70 g of 4,5-dihydro-3-methyl-4-(3-methyl-2-thienyl)-2-phenyl-3H-1,3-benzodiazepine as an oil.

reactant | 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 2.19 g | NC1=C(C=CC=C1)CC(NC)C=1SC=CC1C | C14H18N2S
reactant | trimethyl orthobenzoate | 9.88 g | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
solvent | acetic acid | 2.4 ml | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-3-methyl-4-(3-methyl-2-thienyl)-2-phenyl-3H-1,3-benzodiazepine | 2.70 g | CN1C(=NC2=C(CC1C=1SC=CC1C)C=CC=C2)C2=CC=CC=C2 | C21H20N2S
